US07943669B2
Step A: [4-(3-Cyclopentylmethoxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic Acid Ethyl Ester
The title product was prepared from [4-(3-Bromo-5-cyclopentyloxy-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester (300 mg; 0.63 mmol), phenylacetylen (191.7 mg; 1.88 mmol) applying the procedure described for {4-[3-[2-(4-Chloro-phenyl)-ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester. The crude product was purified by preparative HPLC (method B). Yield: 200 mg (64%). HPLC-MS: m/z: 500.8 (M)+; Rt: 3.30 min.

reactant | [4-(3-Bromo-5-cyclopentyloxy-phenylsulfanyl)-2-methyl-phenoxy]-acetic acid ethyl ester | 0.63 mmol, 300 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OC1CCCC1)Br)C)=O | C22H25BrO4S
reactant | phenylacetylen | 1.88 mmol, 191.7 mg | C1(=CC=CC=C1)C#C | C8H6
reactant | {4-[3-[2-(4-Chloro-phenyl)-ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=C(C=C1)CO)OCCC1=CC=C(C=C1)Cl)C)=O | C34H31ClO5S
product | [4-(3-Cyclopentylmethoxy-5-phenylethynyl-phenylsulfanyl)-2-methyl-phenoxy]-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=CC=C1)OCC1CCCC1)C)=O | C31H32O4S
